US04088652
Preparation of 3-p-Chlorobenzoyl-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane
Following the procedure of Example 8, 19.35 g. of 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane, 10.59 g. of sodium carbonate and 17.5 g. of p-chlorobenzoyl chloride are reacted. The benzene is evaporated and the dark purple residue is dissolved in 200 ml. of chloroform and washed successively with 5% sodium carbonate, 0.5N Hydrochloric acid and then with water and dried over sodium sulfate giving a dark purple oil. The oil is extracted with ether giving the product as grey crystals, mp 98°-100° C.

reactant | 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C=C1)C12CNCC2C1 | C11H12ClN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 3-p-Chlorobenzoyl-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C(=O)N2CC3(CC3C2)C2=CC=C(C=C2)Cl)C=C1 | C18H15Cl2NO
